US06407111B1
2-(3,5-Bis-trifluoromethyl-phenyl)-N-methyl-N-[2-(methyl-phenyl-amino)-phenyl]-isobutyramide
To a solution of 52 mg (0.11 mmol) 2-(3,5-bis-trifluoromethyl-phenyl)-N-methyl-N-[2-(methyl-phenyl-amino)-phenyl]-propionamide in 0.5 ml N,N-dimethylformamide at 0° C. were added 32 mg (0.16 mmol) potassium hexamethyldisilazide. Stirring was continued for 1 h at this temperature and 30 mg (0.16 mmol) methyl iodide were added. After stirring for 3 h at room temperature, ethyl acetate was added. The mixture was washed with brine, dried (magnesium sulfate) and evaporated. The solvent was removed in vacuo and the residue was purified by flash chromatography to give 54 mg (quantitative) of the title compound as colourless oil.

reactant | 2-(3,5-bis-trifluoromethyl-phenyl)-N-methyl-N-[2-(methyl-phenyl-amino)-phenyl]-propionamide | 0.11 mmol, 52 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C1=C(C=CC=C1)N(C1=CC=CC=C1)C)C)C)(F)F | C25H22F6N2O
reactant | potassium hexamethyldisilazide | 0.16 mmol, 32 mg | C[Si]([N-][Si](C)(C)C)(C)C.[K+]
reactant | methyl iodide | 0.16 mmol, 30 mg | CI | CH3I
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
product | 2-(3,5-Bis-trifluoromethyl-phenyl)-N-methyl-N-[2-(methyl-phenyl-amino)-phenyl]-isobutyramide | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C1=C(C=CC=C1)N(C1=CC=CC=C1)C)C)(C)C)(F)F | C26H24F6N2O
